US07745646B2
Lithium hydroxide (1 mL, 1M, 1 mmol) was added to a solution of methyl 5-chloro-4-(8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-ylamino)nicotinate, MeOH (0.8 mL), and THF (1.2 mL). The mixture was stirred for 3 h, quenched with 1N HCl (3 mL), and extracted with EtOAc. The organic extract was dried, filtered, concentrated and purified by reverse-phase HPLC (25→100% MeCN/H2O) to give 5-chloro-4-(8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-ylamino)nicotinic acid: 1H NMR (400 MHz, DMSO-d6): δ 9.53 (s, 1H), 8.97 (s, 1H), 8.92 (s, 1H), 7.85 (d, 1H), 7.19 (d, 1H), 4.83 (m, 1H), 4.74 (s, 1H), 3.90 (s, 3H) 1.85-1.54 (m, 8H); MS (ESI): 430.9.

reactant | Lithium hydroxide | 1 mmol, 1M, 1 mL | [OH-].[Li+]
reactant | methyl 5-chloro-4-(8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-ylamino)nicotinate | ClC=1C=NC=C(C(=O)OC)C1NC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C22H21ClN2O6
reactant | MeOH | 0.8 mL | CO | CH4O
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 5-chloro-4-(8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-ylamino)nicotinic acid | ClC=1C=NC=C(C(=O)O)C1NC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C21H19ClN2O6
